US07915261B2
Pentamethylbenzene (826 mg) was added to a TFA (10 ml) solution containing methyl (2E)-3-[5-(benzyloxy)pyridin-3-yl]acrylate (300 mg), followed by stirring overnight at 60° C. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform:methanol=10:1 (v/v)) to obtain tert-butyl (5-hydroxypyridin-3-yl)acetate (180 mg).

reactant | Pentamethylbenzene | 826 mg | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
reactant | methyl (2E)-3-[5-(benzyloxy)pyridin-3-yl]acrylate | 300 mg | C(C1=CC=CC=C1)OC=1C=C(C=NC1)/C=C/C(=O)OC | C16H15NO3
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | tert-butyl (5-hydroxypyridin-3-yl)acetate | 180 mg | OC=1C=C(C=NC1)CC(=O)OC(C)(C)C | C11H15NO3
